US08563742B2
To a toluene (5 mL) solution containing 4,4-dimethyl-cyclohexanone (500 mg, 4.0 mmol) was added methyl (triphenylphosphoranylidene)acetate (2.0 g, 6.0 mmol) and the reaction was heated to 60-70° C. for 48 h. The reaction was monitored by TLC. The reaction was cooled to room temperature, diluted with dichloromethane, washed with water, concentrated under vacuum, and the crude product was purified on a silica gel column to afford (4,4-dimethyl-cyclohexylidene)-acetic acid methyl ester (100 mg, 14% yield).

reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4,4-dimethyl-cyclohexanone | 4.0 mmol, 500 mg | CC1(CCC(CC1)=O)C | C8H14O
reactant | methyl (triphenylphosphoranylidene)acetate | 6.0 mmol, 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4,4-dimethyl-cyclohexylidene)-acetic acid methyl ester | 100 mg, 14% yield | COC(C=C1CCC(CC1)(C)C)=O | C11H18O2
